US09255089B2
(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone (50 mg, 0.14 mmol) was dissolved in dry THF (1.4 mL) and cooled to 0° C. Cyclohexylmagnesium chloride (2.0 M, 0.21 mL, 0.41 mmol) was added dropwise and the reaction was allowed to stir for 10 mins and then quenched with water. Reaction was extracted three times with EtOAc and combined organic layers were washed once with water, concentrated, and purified by reverse-phase HPLC to give cyclohexyl(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanol intermediate. The intermediate was taken up in EtOH (1.5 mL) and 0.2 mL concentrated HCl and heated to 65° C. for 2 hours and concentrated afford the desired product as a white powder.

reactant | (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone | 0.14 mmol, 50 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(=O)C1=NC=CC=C1)C | C20H18N4O3
reactant | Cyclohexylmagnesium chloride | 0.41 mmol, 2.0 M, 0.21 mL | C1(CCCCC1)[Mg]Cl
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | cyclohexyl(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanol | C1(CCCCC1)C(O)(C1=NC=CC=C1)C1=CC(=CC=2NC(=NC21)OCC)C=2C(=NOC2C)C | C26H30N4O3
